US06110934
N-(2,3-Dihydro-2-methyl-1H-isoindol-4-yl)-5-chloro-2,4-dimethoxybenzamide Hydrochloride
A solution of freshly prepared 4-amino-2,3-dihydro-2-methyl-1H-isoindole (400 mg, 3.0 mmol) in dry ethyl acethate (40 ml) under argon was treated dropwise with a solution of 5-chloro-2,4-dimethoxybenzoyl chloride (700 mg, 3.0 mmol) in a mixture of ethyl acethate (10 ml) and dichloromethane (10 ml). The reaction was stirred at room temperature for 6h and then concentrated in vacuo. The residue was triturated with diethyl ether/ethyl acethate and then crystallised twice from methanol/diethyl ether to give the title compound as a pale grey solid (0.11 g).

reactant | 4-amino-2,3-dihydro-2-methyl-1H-isoindole | 3.0 mmol, 400 mg | NC1=C2CN(CC2=CC=C1)C | C9H12N2
reactant | 5-chloro-2,4-dimethoxybenzoyl chloride | 3.0 mmol, 700 mg | ClC=1C(=CC(=C(C(=O)Cl)C1)OC)OC | C9H8Cl2O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2,3-Dihydro-2-methyl-1H-isoindol-4-yl)-5-chloro-2,4-dimethoxybenzamide Hydrochloride | 0.11 g | Cl.CN1CC2=CC=CC(=C2C1)NC(C1=C(C=C(C(=C1)Cl)OC)OC)=O | InChI=1S/C18H19ClN2O3.ClH/c1-21-9-11-5-4-6-15(13(11)10-21)20-18(22)12-7-14(19)17(24-3)8-16(12)23-2;/h4-8H,9-10H2,1-3H3,(H,20,22);1H
